US07517910B2
[4-isobutoxy-3-[(2-phenyl-1H-indol-1-yl)methyl]phenyl}methanol
To a mixture of 4-isobutoxy-3-[(2-phenyl-1H-indol-1-yl)methyl]benzaldehyde (0.6 g, 1.56 mmol), methanol (3 mL) and tetrahydrofuran (6 mL) was added sodium borohydride (30 mg, 0.78 mmol) with stirring at 0° C., and the mixture was stirred at the same temperature for 1.5 hr. After completion of the reaction, the reaction mixture was diluted with ethyl acetate, and the mixture washed with 5% aqueous potassium hydrogensulfate solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1-hexane/ethyl acetate=1/1) to give the title compound (0.60 g, yield 99%) as a colorless oil. 1H NMR (CDCl3) δ: 1.00 (6H, d, J=6.6 Hz), 1.37 (1H, t, J=6.0 Hz), 2.09 (1H, m), 3.79 (2H, d, J=6.6 Hz), 4.40 (2H, d, J=6.0 Hz), 5.36 (2H, s), 6.62 (1H, d, J=1.8 Hz), 6.68 (1H, s), 6.88 (1H, d, J=8.1 Hz), 7.10-7.18 (3H, m), 7.23 (1H, d, J=2.1, 8.4 Hz), 7.29-7.48 (5H, m), 7.68 (1H, m).

reactant | 4-isobutoxy-3-[(2-phenyl-1H-indol-1-yl)methyl]benzaldehyde | 1.56 mmol, 0.6 g | C(C(C)C)OC1=C(C=C(C=O)C=C1)CN1C(=CC2=CC=CC=C12)C1=CC=CC=C1 | C26H25NO2
reactant | methanol | 3 mL | CO | CH4O
reactant | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
reactant | sodium borohydride | 0.78 mmol, 30 mg | [BH4-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [4-isobutoxy-3-[(2-phenyl-1H-indol-1-yl)methyl]phenyl}methanol | 0.60 g, yield 99% | C(C(C)C)OC1=C(C=C(C=C1)CO)CN1C(=CC2=CC=CC=C12)C1=CC=CC=C1 | C26H27NO2
